US04271163
2.45 g (11.4 millimoles) of cis-2-(p-cyanobenzoyl)-cyclopropanecarboxylic acid, 0.57 g (11.4 millimoles) of hydrazine hydrate and 50 ml of ethanol are refluxed for 6 hours. After filtering off the product at 10° C. and drying it under reduced pressure at 50° C., 1.6 g (67% of theory) of 2-(p-cyanophenyl)-3,4-diaza-bicyclo[4.1.0]hept-2-en-5-one are obtained as ocher crystals which are identical with the compound from Example 39.

reactant | cis-2-(p-cyanobenzoyl)-cyclopropanecarboxylic acid | 11.4 millimoles, 2.45 g | C(#N)C1=CC=C(C(=O)[C@@H]2[C@@H](C2)C(=O)O)C=C1 | C12H9NO3
reactant | hydrazine hydrate | 11.4 millimoles, 0.57 g | O.NN
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(p-cyanophenyl)-3,4-diaza-bicyclo[4.1.0]hept-2-en-5-one | 1.6 g, 67% | C(#N)C1=CC=C(C=C1)C=1C2CC2C(NN1)=O | C12H9N3O
